US07994196B2
Ethyl 1H-indazol-3-ylcarbamate (250 mg), 1-(3,4-dichlorophenyl)piperazine (KANTO CHEMICAL CO. INC., 310 mg) and DBU (200 μl) were dissolved in dimethyl sulfoxide (4 ml), and the mixture was stirred with heating at 100° C. for 1 hr. By the work-up following the method of Example 12, 4-(3,4-dichlorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide (240 mg, yield 50%) was obtained.

reactant | Ethyl 1H-indazol-3-ylcarbamate | 250 mg | N1N=C(C2=CC=CC=C12)NC(OCC)=O | C10H11N3O2
reactant | 1-(3,4-dichlorophenyl)piperazine | 310 mg | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | DBU | 200 μl | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 4-(3,4-dichlorophenyl)-1-piperazinecarboxylic acid (1H-indazol-3-yl)amide | 240 mg, yield 50% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)Cl | C18H17Cl2N5O
